US07776897B2
Acetic anhydride (0.19 ml) and N,N-dimethylaminopyridine (40 mg) were added to a pyridine (10 ml) solution of N-{1-methyl-1-[4-methyl-5-(2-methylphenyl)-4H-1,2,4-triazol-3-yl]ethyl}aniline (500 mg), followed by stirring at 80° C. for 4 days. After the reaction solution and chloroform were added to a 1M hydrochloric acid solution, the reaction solution and chloroform were added to brine and then the organic layer was separated. Furthermore, the organic layer washed with a saturated aqueous sodium hydrogen carbonate solution and a saturated sodium chloride solution successively, dried over anhydrous magnesium sulfate, and filtered and then the solvent was removed by evaporation under reduced pressure. The resulting crude product was purified by flash column chromatography (chloroform:methanol=99:1 to 96:4) and then the resulting solid was washed with ether to obtain 393 mg of N-{1-methyl-1-[4-methyl-5-(2-methylphenyl)-4H-1,2,4-triazol-3-yl]ethyl}-N-phenylacetamide (pale yellow solid).

reactant | Acetic anhydride | 0.19 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | N-{1-methyl-1-[4-methyl-5-(2-methylphenyl)-4H-1,2,4-triazol-3-yl]ethyl}aniline | 500 mg | CC(C)(C1=NN=C(N1C)C1=C(C=CC=C1)C)NC1=CC=CC=C1 | C19H22N4
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | brine | [Cl-].[Na+].O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-{1-methyl-1-[4-methyl-5-(2-methylphenyl)-4H-1,2,4-triazol-3-yl]ethyl}-N-phenylacetamide | 393 mg | CC(C)(C1=NN=C(N1C)C1=C(C=CC=C1)C)N(C(C)=O)C1=CC=CC=C1 | C21H24N4O
